### ISSUE TITLE
[hERG W3.3] Complete terfenadine_safe proof

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/aristotle_biochemistry#16]
## Goal
End-to-end formal proof that terfenadine cannot bind hERG using our framework.

## Tasks
- [ ] Run json_to_lean.py on terfenadine
- [ ] Run aristotle_gen_proof.py
- [ ] Combine into `BiochemFormal/DrugSafety/hERG/Terfenadine.lean`
- [ ] Compile full proof
- [ ] State final theorem: `theorem terfenadine_safe : ¬ BindsHERG terfenadine`

## Deliverable
Working Lean file with:
```lean
import BiochemFormal.DrugSafety.hERG.Core
import BiochemFormal.DrugSafety.hERG.Data

theorem terfenadine_safe : ¬ BindsHERG terfenadine := by
  intro hbind
  obtain ⟨cert, hcert⟩ := necessary_motif terfenadine hbind
  -- [Aristotle-generated case analysis]
  sorry  -- Should compile fully
```

## Success Criteria
- [ ] Proof compiles without errors
- [ ] Non-vacuous (actually rules out binding)
- [ ] <500 lines total

## Related
- **CRITICAL MILESTONE**
- Depends on: All W3.1, W3.2
- Next: Week 4 validation

**Comment by kavanaghpatrick** [comment]
🔄 Closing as obsolete: Terfenadine is a known hERG binder (IC50=56nM), so proving 'safe' would be incorrect. Terfenadine correctly NOT proven safe in validation suite (0% FN rate). Superseded by validated proofs for 7 safe molecules.
